US05807873
A few mg of toluene-4-sulfonic acid are added to a solution of 7 g of 3-[1-(4-fluorophenyl)-1-hydroxy-1-(4-methanesulfonylphenyl)methyl]dihydrofuran-2-one, prepared in Example 3, in 100 ml of toluene and the mixture is refluxed for 10 hours in a Dean-Stark apparatus. The solvent is then evaporated off to dryness under vacuum and the residue is chromatographed using a 9/1 dichloromethane/acetone mixture as the eluent to give an oil, which is chromatographed using t-butyl methyl ether as the eluent to give 2.9 g of (E)-3-[1-(4-fluorophenyl)-1-(4-methanesulfonylphenyl)methylidene]dihydrofuran-2-one (second product eluted) in the form of crystals melting at 187°-9° C. 1.5 g of (Z)-3-[1-(4-fluorophenyl)-1-(4-methanesulfonylphenyl)methylidene]dihydrofuran-2-one (first product eluted) are recovered in the form of crystals melting at 157°-158° C.

reactant | toluene-4-sulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | 3-[1-(4-fluorophenyl)-1-hydroxy-1-(4-methanesulfonylphenyl)methyl]dihydrofuran-2-one | 7 g | FC1=CC=C(C=C1)C(C1=CC=C(C=C1)S(=O)(=O)C)(O)C1C(OCC1)=O | C18H17FO5S
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | (E)-3-[1-(4-fluorophenyl)-1-(4-methanesulfonylphenyl)methylidene]dihydrofuran-2-one | 2.9 g | FC1=CC=C(C=C1)/C(/C1=CC=C(C=C1)S(=O)(=O)C)=C/1\C(OCC1)=O | C18H15FO4S
